US06166064
Benzene-1,3-disulfonic acid amide tert-butyl-amide
20 ml of concentrated ammonium hydroxide was added to a solution of 1 gram (3.2 mmole) 3-tert-butylsulfamoyl-benzenesulfonyl chloride in ethyl acetate. It was stirred vigorously for 8 hours. The ethyl acetate layer was separated dried over magnesium sulfate in vacuo to give 320 mg of the titled compound as a white solid. m.p. 151-154° C.

reactant | ammonium hydroxide | 20 ml | [OH-].[NH4+]
reactant | 3-tert-butylsulfamoyl-benzenesulfonyl chloride | 3.2 mmole, 1 gram | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C10H14ClNO4S2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzene-1,3-disulfonic acid amide tert-butyl-amide | 320 mg | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)N | C10H16N2O4S2
